* Arm C oscillator 8: distributed RC from SPEF
* auto-generated by gen_rc_decks.py
.lib "/home/claude/w/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice" tt
.include "/home/claude/w/pdk/sky130A/libs.ref/sky130_fd_sc_hd/spice/sky130_fd_sc_hd.spice"
.param SUPPLY=1.8
Vdd VPWR 0 {SUPPLY}
Ven EN 0 PULSE(0 1.8 2n 50p 50p 1 2)

* --- Arm C oscillator 8: nand + 30 inverters + tap buffer ---
Xnand EN nand_B 0 0 VPWR VPWR nand_Y sky130_fd_sc_hd__nand2_1
Xi1 i1_A 0 0 VPWR VPWR i1_Y sky130_fd_sc_hd__inv_1
Xi2 i2_A 0 0 VPWR VPWR i2_Y sky130_fd_sc_hd__inv_1
Xi3 i3_A 0 0 VPWR VPWR i3_Y sky130_fd_sc_hd__inv_1
Xi4 i4_A 0 0 VPWR VPWR i4_Y sky130_fd_sc_hd__inv_1
Xi5 i5_A 0 0 VPWR VPWR i5_Y sky130_fd_sc_hd__inv_1
Xi6 i6_A 0 0 VPWR VPWR i6_Y sky130_fd_sc_hd__inv_1
Xi7 i7_A 0 0 VPWR VPWR i7_Y sky130_fd_sc_hd__inv_1
Xi8 i8_A 0 0 VPWR VPWR i8_Y sky130_fd_sc_hd__inv_1
Xi9 i9_A 0 0 VPWR VPWR i9_Y sky130_fd_sc_hd__inv_1
Xi10 i10_A 0 0 VPWR VPWR i10_Y sky130_fd_sc_hd__inv_1
Xi11 i11_A 0 0 VPWR VPWR i11_Y sky130_fd_sc_hd__inv_1
Xi12 i12_A 0 0 VPWR VPWR i12_Y sky130_fd_sc_hd__inv_1
Xi13 i13_A 0 0 VPWR VPWR i13_Y sky130_fd_sc_hd__inv_1
Xi14 i14_A 0 0 VPWR VPWR i14_Y sky130_fd_sc_hd__inv_1
Xi15 i15_A 0 0 VPWR VPWR i15_Y sky130_fd_sc_hd__inv_1
Xi16 i16_A 0 0 VPWR VPWR i16_Y sky130_fd_sc_hd__inv_1
Xi17 i17_A 0 0 VPWR VPWR i17_Y sky130_fd_sc_hd__inv_1
Xi18 i18_A 0 0 VPWR VPWR i18_Y sky130_fd_sc_hd__inv_1
Xi19 i19_A 0 0 VPWR VPWR i19_Y sky130_fd_sc_hd__inv_1
Xi20 i20_A 0 0 VPWR VPWR i20_Y sky130_fd_sc_hd__inv_1
Xi21 i21_A 0 0 VPWR VPWR i21_Y sky130_fd_sc_hd__inv_1
Xi22 i22_A 0 0 VPWR VPWR i22_Y sky130_fd_sc_hd__inv_1
Xi23 i23_A 0 0 VPWR VPWR i23_Y sky130_fd_sc_hd__inv_1
Xi24 i24_A 0 0 VPWR VPWR i24_Y sky130_fd_sc_hd__inv_1
Xi25 i25_A 0 0 VPWR VPWR i25_Y sky130_fd_sc_hd__inv_1
Xi26 i26_A 0 0 VPWR VPWR i26_Y sky130_fd_sc_hd__inv_1
Xi27 i27_A 0 0 VPWR VPWR i27_Y sky130_fd_sc_hd__inv_1
Xi28 i28_A 0 0 VPWR VPWR i28_Y sky130_fd_sc_hd__inv_1
Xi29 i29_A 0 0 VPWR VPWR i29_Y sky130_fd_sc_hd__inv_1
Xi30 i30_A 0 0 VPWR VPWR i30_Y sky130_fd_sc_hd__inv_1
Xbuf buf_A 0 0 VPWR VPWR buf_X sky130_fd_sc_hd__buf_1

Rn0_0 nand_Y i1_A 20.2563
Cg0 i1_A 0 4.734320e-17
Cg1 nand_Y 0 4.734320e-17
Cx0 i1_A 0 1.102550e-16
Cx1 i1_A 0 4.630310e-17
Rn1_1 i1_Y i2_A 19.4973
Cg2 i2_A 0 1.515410e-17
Cg3 i1_Y 0 1.515410e-17
Cx2 i2_A 0 5.337830e-17
Cx3 i2_A 0 5.337830e-17
Rn10_2 i10_Y i11_A 20.8277
Cg4 i11_A 0 7.592010e-17
Cg5 i10_Y 0 7.592010e-17
Cc0 i11_A i12_A 4.176180e-17
Cc1 i11_A i10_A 5.964810e-17
Cx4 i11_A 0 9.959270e-17
Rn11_3 i11_Y i12_A 21.3813
Cg6 i12_A 0 1.119280e-16
Cg7 i11_Y 0 1.119280e-16
Cc2 i12_A i13_A 5.077460e-17
Cc3 i12_A i10_A 0.000000e+00
Cx5 i12_A 0 9.738030e-17
Rn12_4 i12_Y i13_A 21.3813
Cg8 i13_A 0 9.914760e-17
Cg9 i12_Y 0 9.914760e-17
Cc4 i13_A i14_A 5.146670e-17
Cx6 i13_A 0 1.008760e-16
Rn13_5 i13_Y i14_A 21.3813
Cg10 i14_A 0 9.788200e-17
Cg11 i13_Y 0 9.788200e-17
Cc5 i14_A i15_A 5.146670e-17
Cx7 i14_A 0 1.008760e-16
Rn14_6 i14_Y i15_A 21.3813
Cg12 i15_A 0 1.187390e-16
Cg13 i14_Y 0 1.187390e-16
Cx8 i15_A 0 1.008760e-16
Rn15_7 i15_Y s1112_12 20.5768
Rn15_8 s1112_12 buf_A 9.8357
Rn15_9 s1112_12 i16_A 10.4027
Cg14 i16_A 0 4.442850e-17
Cg15 buf_A 0 3.041350e-17
Cg16 i15_Y 0 1.157500e-16
Cg17 s1112_12 0 1.905920e-16
Cc6 s1112_12 nand_B 1.473320e-16
Cx9 s1112_12 0 3.524080e-17
Cx10 i16_A 0 1.032740e-16
Cx11 buf_A 0 5.330050e-17
Cx12 s1112_12 0 0.000000e+00
Rn16_10 i16_Y i17_A 19.4973
Cg18 i17_A 0 3.355400e-17
Cg19 i16_Y 0 3.355400e-17
Cx13 i17_A 0 9.572150e-17
Rn17_11 i17_Y i18_A 19.4973
Cg20 i18_A 0 3.355400e-17
Cg21 i17_Y 0 3.355400e-17
Cx14 i18_A 0 9.572150e-17
Rn18_12 i18_Y i19_A 19.4973
Cg22 i19_A 0 3.355400e-17
Cg23 i18_Y 0 3.355400e-17
Cx15 i19_A 0 9.572150e-17
Rn19_13 i19_Y i20_A 19.4973
Cg24 i20_A 0 3.355400e-17
Cg25 i19_Y 0 3.355400e-17
Cx16 i20_A 0 9.572150e-17
Rn2_14 i2_Y i3_A 19.4973
Cg26 i3_A 0 1.515410e-17
Cg27 i2_Y 0 1.515410e-17
Cx17 i3_A 0 5.337830e-17
Cx18 i3_A 0 5.337830e-17
Rn20_15 i20_Y i21_A 19.4973
Cg28 i21_A 0 3.355400e-17
Cg29 i20_Y 0 3.355400e-17
Cx19 i21_A 0 9.572150e-17
Rn21_16 i21_Y i22_A 19.4973
Cg30 i22_A 0 2.738370e-17
Cg31 i21_Y 0 2.738370e-17
Cc7 i22_A i23_A 1.658220e-17
Cx20 i22_A 0 9.562540e-17
Rn22_17 i22_Y i23_A 30.2652
Cg32 i23_A 0 1.514360e-16
Cg33 i22_Y 0 1.514360e-16
Cc8 i23_A i24_A 2.798270e-17
Cx21 i23_A 0 1.264390e-16
Cx22 i23_A 0 1.439510e-17
Rn23_18 i23_Y i24_A 20.8277
Cg34 i24_A 0 8.854010e-17
Cg35 i23_Y 0 8.854010e-17
Cc9 i24_A i25_A 3.999180e-17
Cx23 i24_A 0 6.738850e-17
Rn24_19 i24_Y i25_A 21.1313
Cg36 i25_A 0 7.307910e-17
Cg37 i24_Y 0 7.307910e-17
Cc10 i25_A i26_A 3.028690e-17
Cc11 i25_A i27_A 0.000000e+00
Cx24 i25_A 0 1.450400e-16
Rn25_20 i25_Y i26_A 21.3813
Cg38 i26_A 0 1.310300e-16
Cg39 i25_Y 0 1.310300e-16
Cc12 i26_A i27_A 3.028690e-17
Cc13 i26_A i28_A 0.000000e+00
Cx25 i26_A 0 2.417650e-17
Rn26_21 i26_Y i27_A 21.1313
Cg40 i27_A 0 7.738800e-17
Cg41 i26_Y 0 7.738800e-17
Cc14 i27_A i28_A 3.028690e-17
Cc15 i27_A i29_A 0.000000e+00
Cx26 i27_A 0 1.450400e-16
Rn27_22 i27_Y i28_A 21.3813
Cg42 i28_A 0 1.310300e-16
Cg43 i27_Y 0 1.310300e-16
Cc16 i28_A i29_A 3.028690e-17
Cc17 i28_A i30_A 0.000000e+00
Cx27 i28_A 0 2.417650e-17
Rn28_23 i28_Y i29_A 21.1313
Cg44 i29_A 0 7.738800e-17
Cg45 i28_Y 0 7.738800e-17
Cc18 i29_A i30_A 3.028690e-17
Cx28 i29_A 0 1.450400e-16
Rn29_24 i29_Y i30_A 21.3813
Cg46 i30_A 0 1.276390e-16
Cg47 i29_Y 0 1.276390e-16
Cc19 i30_A nand_B 2.629080e-17
Cx29 i30_A 0 2.747940e-17
Cx30 i30_A 0 6.237880e-18
Rn3_25 i3_Y i4_A 19.4973
Cg48 i4_A 0 2.654100e-17
Cg49 i3_Y 0 2.654100e-17
Cx31 i4_A 0 4.884020e-17
Cx32 i4_A 0 4.884020e-17
Rn30_26 i30_Y nand_B 34.8411
Cg50 nand_B 0 3.478290e-16
Cg51 i30_Y 0 3.478290e-16
Cx33 nand_B 0 2.401540e-18
Cc20 EN nand_B 5.807060e-18
Cx34 nand_B 0 2.617050e-16
Rn4_27 i4_Y i5_A 19.4973
Cg52 i5_A 0 1.515410e-17
Cg53 i4_Y 0 1.515410e-17
Cx35 i5_A 0 5.337830e-17
Cx36 i5_A 0 5.337830e-17
Rn5_28 i5_Y i6_A 19.4973
Cg54 i6_A 0 1.515410e-17
Cg55 i5_Y 0 1.515410e-17
Cx37 i6_A 0 5.337830e-17
Cx38 i6_A 0 5.337830e-17
Rn6_29 i6_Y i7_A 19.4973
Cg56 i7_A 0 1.337650e-17
Cg57 i6_Y 0 1.337650e-17
Cx39 i7_A 0 8.603100e-17
Cx40 i7_A 0 5.337830e-17
Rn7_30 i7_Y i8_A 30.2652
Cg58 i8_A 0 1.677270e-16
Cg59 i7_Y 0 1.677270e-16
Cx41 i8_A 0 7.905360e-17
Cc21 i8_A i9_A 2.808530e-17
Cx42 i8_A 0 3.346720e-17
Cx43 i8_A 0 2.808530e-17
Cx44 i8_A 0 0.000000e+00
Rn8_31 i8_Y i9_A 20.8277
Cg60 i9_A 0 8.645360e-17
Cg61 i8_Y 0 8.645360e-17
Cc22 i9_A i10_A 4.411310e-17
Cx45 i9_A 0 1.118200e-16
Rn9_32 i9_Y i10_A 21.2027
Cg62 i10_A 0 1.084340e-16
Cg63 i9_Y 0 1.084340e-16
Cx46 i10_A 0 1.207090e-16
Rout_33 buf_X s1137_18 48.3179
Cg64 buf_X 0 1.631010e-15
Cg65 s1137_18 0 1.631010e-15
Cx47 s1137_18 0 1.333430e-17
Cx48 s1137_18 0 1.489030e-16
Cx49 s1137_18 0 2.213900e-16
Cx50 s1137_18 0 4.274380e-17
Cx51 s1137_18 0 3.343660e-17
Cx52 s1137_18 0 1.100180e-16
Cx53 s1137_18 0 6.999250e-17
Cx54 s1137_18 0 9.101790e-16
Cx55 s1137_18 0 1.025040e-17
Cx56 s1137_18 0 7.787130e-17
Cx57 s1137_18 0 9.608750e-17
Cx58 s1137_18 0 1.924730e-16
Cx59 s1137_18 0 0.000000e+00
Cx60 s1137_18 0 1.402820e-16
Cx61 s1137_18 0 0.000000e+00
Cx62 s1137_18 0 4.291790e-17

.save v(buf_X)
.tran 1p 140n
.control
run
meas tran tp TRIG v(buf_X) VAL=0.9 RISE=5 TARG v(buf_X) VAL=0.9 RISE=25
let f = 20 / tp
print f
.endc
.end
